US05310748
Preparation of bis[2-(4,5-diphenyl-1H-imidazol-2-ylthio)ethyl]-ether
A solution of 4,5-diphenyl-2-mercapto-1H-imidazole (2.63 g, 10.44 mmol), chloroethyl ether (0.6 mL, 5.22 mmol), potassium carbonate (1.59 g, 11.5 mmol) and tetra-n-butylammonium iodide (0.39 g, 1.04 mmol) in tetrahydrofuran (20 mL) was heated to reflux for 14 hours. The solution was cooled, then poured into water (100 mL). This was extracted with methylene chloride (2×100 mL), and the extracts were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was separated by flash chromatography (3:7 ethyl acetate-hexane, then 1:1 ethyl acetate-hexane) to afford the title product, which was further purified by recrystallization from acetonitrile, mp 232°-234° C. (1.00 g, 1.74 mmol, 33%). 1H NMR (CDCl3): 11.70 (2H, br s); 7.60-7.16 (20H, m); 3.80 (4H, t, J=5.7 Hz); 3.21 (4H, t, J=5.7 Hz). Elemental analysis: calc. C 71.05, H 5.26, N 9.75; obs. C 70.84, H 5.17, N 9.68.

reactant | 4,5-diphenyl-2-mercapto-1H-imidazole | 10.44 mmol, 2.63 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)S | C15H12N2S
reactant | chloroethyl ether | 5.22 mmol, 0.6 mL | ClCCOCCCl | C4H8Cl2O
reactant | potassium carbonate | 11.5 mmol, 1.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
catalyst | tetra-n-butylammonium iodide | 1.04 mmol, 0.39 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | bis[2-(4,5-diphenyl-1H-imidazol-2-ylthio)ethyl]-ether | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCOCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H30N4OS2
